US08076324B2
4-Cyclopropylmethoxy-4-(4′-fluorobiphenyl-4-yl)-1-phenylcyclohexanecarboxylic Acid
19 mg of tetrakis(triphenylphosphine)palladium(0) were added to a solution of 200 mg of 4-(4-bromophenyl)-4-cyclopropylmethoxy-1-phenylcyclohexanecarboxylic acid in 4 ml of degassed toluene under argon in a two-necked flask and the mixture was stirred for 10 min at room temperature. Subsequently, 65.1 mg of 4-fluorobenzeneboronic acid and 0.341 ml of a 2 M sodium carbonate solution were added and the reaction mixture was heated for 24 h at 100° C. After cooling, water and EA were added, the organic phase was separated and the aqueous phase was extracted twice with EA. The combined organic phases were dried over magnesium sulfate and the solvent was removed in vacuo. After purification of the residue by preparative HPLC, 20 mg of the title compound were obtained as a white lyophilizate.

reactant | 4-(4-bromophenyl)-4-cyclopropylmethoxy-1-phenylcyclohexanecarboxylic acid | 200 mg | BrC1=CC=C(C=C1)C1(CCC(CC1)(C(=O)O)C1=CC=CC=C1)OCC1CC1 | C23H25BrO3
reactant | 4-fluorobenzeneboronic acid | 65.1 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EA | CC(OCC)=O | C4H8O2
product | 4-Cyclopropylmethoxy-4-(4′-fluorobiphenyl-4-yl)-1-phenylcyclohexanecarboxylic Acid | 20 mg | C1(CC1)COC1(CCC(CC1)(C(=O)O)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C29H29FO3
